US05128327
To a stirred mixture of 3-cyanopyridine (10 g, 96 mmol), CuI (914 mg, 4.8 mmol), p-tolylmagnesium bromide (100 mL of a 1M solution in Et2O, 100 mmol), THF (200 mL), and Me2S (100 mL) under N2 at 23° C. was added phenyl chloroformate (12.6 mL, 100 mmol) over a 30 min. period. After 2 h, aqueous NH4Cl (20%, 100 mL) and Et2O (100 mL) were added and the mixture was warmed to room temperature. The organic layer was washed sequentially with 1N HCl (50 mL), H2O (50 mL), a 1:1 mixture of 20% aqueous NH4Cl and conc. NH4OH (3×50 mL), and brine (50 mL) then dried (MgSO4). Concentration gave the crude 3-cyano-1-phenoxycarbonyl-4-(p-tolyl)-1,4-dihydropyridine as a tan solid. A portion (8 g) of this crude dihydropyridine was treated with S8 (810 mg) in decalin (25 mL) at reflux for 6 h. This reaction was cooled to rt, EtOAc (100 mL) and H2O (50 mL) were added and the resulting mixture was filtered through celite®. The organic layer was washed sequentially with 1 N NaOH (30 mL), water and brine then dried over (K2CO3). Purification (flash chromatography, 20% EtOAc/hexanes) gave the titled compound as a tan solid.

reactant | 3-cyanopyridine | 96 mmol, 10 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | p-tolylmagnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
reactant | Me2S | 100 mL | S(C)C | C2H6S
reactant | phenyl chloroformate | 100 mmol, 12.6 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
catalyst | CuI | 4.8 mmol, 914 mg | [Cu]I
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-cyano-1-phenoxycarbonyl-4-(p-tolyl)-1,4-dihydropyridine | C(#N)C1=CN(C=CC1C1=CC=C(C=C1)C)C(=O)OC1=CC=CC=C1 | C20H16N2O2
